US07557103B2
A. Preparation of N-(4-ethyl-6-methyl-pyridazin-3-yl)-2,2-dimethyl-propionamide
Using a procedure analogous to Example 17A, 2,2-dimethyl-N-(6-methyl-pyridazin-3-yl)-propionamide (4.18 g, 21.65 mmol) and 3.0 M solution of EtMgBr (36 mL, 108.29 mmol) give the title compound (0.83 g, 3.76 mmol, 17%). 1H NMR (CDCl3): δ 1.24 (t, J=7.5 Hz, 3H), 1.37 (s, 9H), 2.62 (q, J=7.5 Hz, 2H), 2.66 (s, 3H), 7.23 (s, 1H), 8.50 (s, 1H) ppm. ES-MS (m/z): calcd for C12H19N3O (M+H)+: 222.3. found: 222.1.

reactant | 2,2-dimethyl-N-(6-methyl-pyridazin-3-yl)-propionamide | 21.65 mmol, 4.18 g | CC(C(=O)NC=1N=NC(=CC1)C)(C)C | C10H15N3O
reactant | EtMgBr | 108.29 mmol, 36 mL | CC[Mg+].[Br-]
product | N-(4-ethyl-6-methyl-pyridazin-3-yl)-2,2-dimethyl-propionamide | 3.76 mmol, 0.83 g, 17% | C(C)C1=C(N=NC(=C1)C)NC(C(C)(C)C)=O | C12H19N3O
